US04743601
3-Bromo-7-chloro-N-(2-hydroxyethyl)-4-quinolinamine
Bromine (4.3 g) was added dropwise to a solution of 7-chloro-N-(2-hydroxyethyl)-4-quinolinamine (6 g) in 60 ml of acetic acid. The mixture was stirred overnight and the solid separated by filtration. This solid was dispensed in 100 ml of water and the mixture made alkaline (pH=8) with a sodium bicarbonate solution. After two hours of stirring, the product was filtered and recrystallized twice from isopropanol and from ethanol. The yield was 3.5 g, mp 169°-170° C.

reactant | Bromine | 4.3 g | BrBr | Br2
reactant | 7-chloro-N-(2-hydroxyethyl)-4-quinolinamine | 6 g | ClC1=CC=C2C(=CC=NC2=C1)NCCO | C11H11ClN2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-7-chloro-N-(2-hydroxyethyl)-4-quinolinamine | BrC=1C=NC2=CC(=CC=C2C1NCCO)Cl | C11H10BrClN2O
